US08076326B2
27.1 tert-butyl 4-(5-(N-(2-(difluoromethoxy)phenyl)sulfamoyl)-2-methoxyphenyl)piperazine-1-carboxylate
1 g of N-(2-(difluoromethoxy)phenyl)-4-methoxy-3-(piperazin-1-yl)benzenesulfonamide (2.419 mmol) were dissolved in 15 mL of tetrahydrofuran. 0.674 mL of triethylamine (4.84 mmol) were added, followed by addition of 0.528 g of di-tert-butyl dicarbonate (2.419 mmol) in 2 mL of tetrahydrofurane. The reaction mixture was stirred at room temperature for 16 h. After evaporation of the solvent, the residue was dissolved in dichloromethane, washed with 5% aqueous citric acid. The organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulphate, filtered, and the solvent evaporated. The crude product containing ca. 25% of the bis-boc derivative was used without further purification in the next step (1.2 g).

reactant | N-(2-(difluoromethoxy)phenyl)-4-methoxy-3-(piperazin-1-yl)benzenesulfonamide | 2.419 mmol, 1 g | FC(OC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)N1CCNCC1)F | C18H21F2N3O4S
reactant | triethylamine | 4.84 mmol, 0.674 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.419 mmol, 0.528 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 2 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(5-(N-(2-(difluoromethoxy)phenyl)sulfamoyl)-2-methoxyphenyl)piperazine-1-carboxylate | FC(OC1=C(C=CC=C1)NS(=O)(=O)C=1C=CC(=C(C1)N1CCN(CC1)C(=O)OC(C)(C)C)OC)F | C23H29F2N3O6S
